US07714009B2
N2-Mesityl-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine
To 0.125 g (0.44 mmol) of N2-mesityl-1,3-benzothiazole-2,7-diamine and 0.16 mL (2.2 mmol) of propionaldehyde in 5 mL of dichloroethane was added one drop of glacial acetic acid and 0.28 g (1.3 mmol) of sodium triacetoxyborohydride. The mixture was heated to 50° C. for 1 h and concentrated in vacuo. The crude solid was purified by flash chromatography eluting with a 2% methanol/dichloromethane mixture to give 0.016 g (10%) of the title compound as a tan powder.

reactant | N2-mesityl-1,3-benzothiazole-2,7-diamine | 0.44 mmol, 0.125 g | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=CC=C2N)C | C16H17N3S
reactant | propionaldehyde | 2.2 mmol, 0.16 mL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 1.3 mmol, 0.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | N2-Mesityl-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine | 0.016 g, 10% | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=CC=C2N(CCC)CCC)C | C22H29N3S
